US05780472
1-[(5,6-dimethyl-2-methoxypyridin-3-yl)aminocarbonyl]-4-(2-methoxyphenyl) piperazine
Phenyl-N-(5,6-dimethyl-2-methoxypyridin-3-yl)thiocarbamate and 1-(2-methoxyphenyl)piperazine were reacted by the same way with the example 1 to obtain the titled compound.

reactant | Phenyl-N-(5,6-dimethyl-2-methoxypyridin-3-yl)thiocarbamate | C1(=CC=CC=C1)OC(NC=1C(=NC(=C(C1)C)C)OC)=S | C15H16N2O2S
reactant | 1-(2-methoxyphenyl)piperazine | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
product | 1-[(5,6-dimethyl-2-methoxypyridin-3-yl)aminocarbonyl]-4-(2-methoxyphenyl) piperazine | yield: 70% | CC=1C=C(C(=NC1C)OC)NC(=O)N1CCN(CC1)C1=C(C=CC=C1)OC | C20H26N4O3
